datasets/10k__Tet_Int.csv
SMILES Labelled
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C([H])C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[OH:21][CH:20]2(C)C(C3=C(C([NH+:10]2(C))C)C=CC=C3)O>>[NH:10](C)C(C1=C(C([CH:20](C)=[OH+:21])O)C=CC=C1)C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[O-:21]CC>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CCCCCC)[H] 21=20;20,10=10"
"[O:21]=[C:20](OCC)OCCCCCC.[O-:10]CCCCCC>>CCCCCC[O:10][C:20]([O-:21])(OCC)OCCCCCC 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[NH][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O:20]=[C:21](OCC)O[H].CC[O:10][Li]>>CC[O+:10]([Li])[C:21]([O-:20])(OCC)O[H] 10=21;21,20=20"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C.[O-:21]C>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)[H])C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[OH:21][C:20]1(OC)C([H])C([H])=C(C)C(C)[OH+:10]1>>[OH:10]C(C)/C(C)=C([H])\C([H])[C:20](OC)=[OH+:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)CCCCCC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[O]C(C)C(CC)[S]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(CC)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O][H])[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"CC[O+:10]([K])[C:21]([O-:20])(OCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCC)OC1=CC=CC=C1.CC[O:10][K] 20=21;21,10=10"
"[O-:21][C:20]1(C)[O+:10]([Na])C(C)C(C)=C1O>>[O:10]([Na])C(C)/C(C)=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](C)[S]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
